US04469868
A solution of 108 g (0.05 mol) of 1-ethyl-3-methyl-4-nitro-pyrazole-5-carbonyl chloride [J. Med. Chem. 16 1346 (1973)] in 100 ml of acetone is added at a fast droprate to 450 ml cold concentrated ammonium hydroxide with stirring. After one hour, the mixture is filtered; the product is washed with water to give 94 g (95%) of 1-ethyl-3-methyl-4-nitropyrazole-5-carboxamide, mp 175°-177° C.

reactant | 1-ethyl-3-methyl-4-nitro-pyrazole-5-carbonyl chloride | 0.05 mol, 108 g | C(C)N1N=C(C(=C1C(=O)Cl)[N+](=O)[O-])C | C7H8ClN3O3
reactant | ammonium hydroxide | 450 ml | [OH-].[NH4+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 1-ethyl-3-methyl-4-nitropyrazole-5-carboxamide | 94 g, 95% | C(C)N1N=C(C(=C1C(=O)N)[N+](=O)[O-])C | C7H10N4O3
